Generated chess-board capture sensor sequence
.model HALLSW SW(Ron=50.0 Roff=1T Vt=1.65 Vh=0.1)
.subckt SQUARE_SENSOR OUT VDD MAG GND
SOUTPUT OUT GND MAG GND HALLSW
RPULL OUT VDD 100000.0
.ends SQUARE_SENSOR
VDD vdd 0 3.3
VMAG_sq_d5 mag_sq_d5 0 PWL(0.0m 3.3 0.999m 3.3 1m 0 2.999m 0 3m 3.3)
Xsq_d5 sq_d5 vdd mag_sq_d5 0 SQUARE_SENSOR
VMAG_sq_e4 mag_sq_e4 0 PWL(0.0m 3.3 1.999m 3.3 2m 0)
Xsq_e4 sq_e4 vdd mag_sq_e4 0 SQUARE_SENSOR
.tran 10u 4.25m
.control
run
meas tran result_attacker_initial FIND v(sq_e4) AT=0.25m
meas tran result_victim_initial FIND v(sq_d5) AT=0.25m
meas tran result_victim_removed FIND v(sq_d5) AT=1.25m
meas tran result_attacker_lifted FIND v(sq_e4) AT=2.25m
meas tran result_attacker_placed FIND v(sq_d5) AT=3.25m
if result_attacker_initial < 0
echo "ASSERTION FAILED: result_attacker_initial below 0"
quit 1
end
if result_attacker_initial > 0.1
echo "ASSERTION FAILED: result_attacker_initial above 0.1"
quit 1
end
if result_victim_initial < 0
echo "ASSERTION FAILED: result_victim_initial below 0"
quit 1
end
if result_victim_initial > 0.1
echo "ASSERTION FAILED: result_victim_initial above 0.1"
quit 1
end
if result_victim_removed < 3.2
echo "ASSERTION FAILED: result_victim_removed below 3.2"
quit 1
end
if result_victim_removed > 3.4
echo "ASSERTION FAILED: result_victim_removed above 3.4"
quit 1
end
if result_attacker_lifted < 3.2
echo "ASSERTION FAILED: result_attacker_lifted below 3.2"
quit 1
end
if result_attacker_lifted > 3.4
echo "ASSERTION FAILED: result_attacker_lifted above 3.4"
quit 1
end
if result_attacker_placed < 0
echo "ASSERTION FAILED: result_attacker_placed below 0"
quit 1
end
if result_attacker_placed > 0.1
echo "ASSERTION FAILED: result_attacker_placed above 0.1"
quit 1
end
quit 0
.endc
.end
